US07348337B2
Preparation of 1-[4-(1-Phenyl-1-(2-trimethylsilylethyn-1-yl)-methylene)-piperidin-1-yl]-2-(4,7-dimethoxy-6-azaindol-3-yl)-ethane-1,2-dione:
As shown in Scheme 31 to a solution of 1-[4-(1-bromo-1-phenyl-methylene)-piperidin-1-yl]-2-(4,7-dimethoxy-6-azaindol-3-yl)-ethane-1,2-dione (0.094 g, 0.195 mmol), PdCl2(PhCN)2 (0.005 g, 0.0117 mmol), and CuI (0.005 g, 0.0252 mmol) in piperidine (1.5 mL) was added trimethylsilylacetylene (0.070 mL, 0.495 mmol). The mixture was heated at 60° C. for 2 h and the solvent removed in vacuo. The residue was diluted with EtOAc and H2O, the organic phase was separated and the aqueous phase was re-extracted with EtOAc (×2). The combined organic layers were washed, (H2O, brine), dried (Na2SO4) and evaporated, and the residue was purified by preparative HPLC to give the title compound as a colorless solid (0.038 g, 39%).

reactant | 1-[4-(1-bromo-1-phenyl-methylene)-piperidin-1-yl]-2-(4,7-dimethoxy-6-azaindol-3-yl)-ethane-1,2-dione | 0.195 mmol, 0.094 g | BrC(C1=CC=CC=C1)=C1CCN(CC1)C(C(=O)C1=CNC2=C(N=CC(=C12)OC)OC)=O | C23H22BrN3O4
reactant | trimethylsilylacetylene | 0.495 mmol, 0.070 mL | C[Si](C)(C)C#C | C5H10Si
solvent | piperidine | 1.5 mL | N1CCCCC1 | C5H11N
catalyst | PdCl2(PhCN)2 | 0.0117 mmol, 0.005 g | C1=CC=C(C=C1)C#N.C1=CC=C(C=C1)C#N.Cl[Pd]Cl
catalyst | CuI | 0.0252 mmol, 0.005 g | [Cu]I
product | 1-[4-(1-Phenyl-1-(2-trimethylsilylethyn-1-yl)-methylene)-piperidin-1-yl]-2-(4,7-dimethoxy-6-azaindol-3-yl)-ethane-1,2-dione | 0.038 g, 39% | C1(=CC=CC=C1)C(C#C[Si](C)(C)C)=C1CCN(CC1)C(C(=O)C1=CNC2=C(N=CC(=C12)OC)OC)=O | C28H31N3O4Si
